US07576072B2
Step D: Preparation of 6-chloro-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid.
Potassium permanganate (2.00 equivalents) is added to 6-chloro-7-fluoro-5-methylpyrazolo[1,5-a]pyrimidine (1.00 equivalent) in water, and the mixture is heated at 100° C. After 3 hours, the reaction mixture is cooled to room temperature, and the precipitated oxides of manganese are filtered and washed with hot water. The filtrate is concentrated under reduced pressure, diluted with EtOAc, washed with 10% aqueous HCl solution, dried (MgSO4), and concentrated. The product may be triturated with an appropriate solvent such as diethyl ether or dichloromethane if further purification is necessary.

reactant | Potassium permanganate | 2.00 equivalents | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 6-chloro-7-fluoro-5-methylpyrazolo[1,5-a]pyrimidine | 1.00 equivalent | ClC=1C(=NC=2N(C1F)N=CC2)C | C7H5ClFN3
reactant | water | O | H2O
product | 6-chloro-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid | ClC=1C(=NC=2N(C1F)N=CC2)C(=O)O | C7H3ClFN3O2
